US07115645B2
EXAMPLE N-(1,2-Diphenyl-1H-benzimidazol-5-yl)-N-(4-methoxyphenylsulfonyl)-4-methoxybenzenesulfonamide
5-Amino-1,2-diphenyl-1H-benzimidazole was reacted with 4-methoxybenzenesulfonic acid chloride according to general operating instructions 13.

reactant | 5-Amino-1,2-diphenyl-1H-benzimidazole | NC1=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C19H15N3
reactant | 4-methoxybenzenesulfonic acid chloride | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
product | N-(1,2-Diphenyl-1H-benzimidazol-5-yl)-N-(4-methoxyphenylsulfonyl)-4-methoxybenzenesulfonamide | C1(=CC=CC=C1)N1C(=NC2=C1C=CC(=C2)N(S(=O)(=O)C2=CC=C(C=C2)OC)S(=O)(=O)C2=CC=C(C=C2)OC)C2=CC=CC=C2 | C33H27N3O6S2
